Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain, Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
___ - PROCEDURE:  Exploratory laparotomy with lysis of 
adhesions.

 
History of Present Illness:
___ M s/p OLT ___ with duct to duct anastamosis by Dr. 
___ hepaticojejunostomy and a repair of an 
incisional hernia in ___.  Patient had ex-lap with revision of 
jejunojejunostomy due to Enteroenteric intussusception in the 
area of the jejunojejunostomy in ___.  Patient had an 
admission ___ to ___ which he presented with a CT of 
abdomen showing a small foci of extraluminal air with increase 
in fat stranding and fluid about the liver without definite 
etiology. Ex-lap on ___ revealed that the revised 
jejunojejunostomy was found to have healed very well with no 
evidence of leak. One small band was lysed in the distal small 
bowel.

Patient now presents with mid abdominal pain and nausea x 1 day. 
Patient had one episode of bilious vomiting yesterday.  No 
fever, rigors, or chills.  Last normal bowel movement last night 
w/+flatus. Pain has been progressively worsening and patient 
went to ___ where CT scan showed complete small 
bowel obstruction with transition in lower pelvis.  Patient was 
transferred to ___ for further management.  
 
Past Medical History:
PMH: HCV, HCC, hepatoma, psoriasis
.
PSH: OLT with duct to duct anastamosis ___ c/b CBD 
stricture, side-to-side ___ hepaticojejunostomy and 
incisional hernia repair ___, Ex-lap with revision of 
jejunojejunostomy due to Enteroenteric intussusception in the 
area of the jejunojejunostomy ___. Negative exploratory 
lapartomy ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission
PE:   98.0     70    120/70      18    98RA
Gen:  NAD   
CV:  RRR, no m/r/g 
Lungs CTA bilat 
Abd:  soft, +tenderness to palpation mid/lower abdomen.  Mildly
distended.  +Flatus.  No peritoneal signs
Ext:  WWP, 2+ ___ 

 
Pertinent Results:
___ 5:30 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary): 
      GRAM POSITIVE RODS. 
         CONSISTENT WITH CORYNEBACTERIUM OR                      
          
         PROPIONIBACTERIUM SPECIES. 
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.  POSSIBLE 
STOMATOCOCCUS. 
   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S) CONSISTENT WITH CORYNEBACTERIUM OR    
          
                          PROPIONIBACTERIUM SPECIES. 
      GRAM POSITIVE COCCI IN CLUSTERS. 
      REPORTED BY PHONE TO ___ ___ ___ AT 
2:15PM. 
   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S). 
      CONSISTENT WITH CORYNEBACTERIUM OR                         
          
      PROPIONIBACTERIUM SPECIES. 

.
___ 06:40AM BLOOD WBC-1.5*# RBC-2.94* Hgb-9.0* Hct-28.3* 
MCV-96 MCH-30.6 MCHC-31.7 RDW-15.2 Plt Ct-79*
___ 05:30AM BLOOD Neuts-72.5* ___ Monos-5.3 Eos-1.1 
Baso-0.8
___ 06:40AM BLOOD Plt Ct-79*
___ 06:40AM BLOOD Glucose-108* UreaN-11 Creat-0.9 Na-130* 
K-3.6 Cl-100 HCO3-24 AnGap-10
___ 06:40AM BLOOD ALT-10 AST-18 AlkPhos-75 TotBili-0.6
___ 06:40AM BLOOD Calcium-8.2* Phos-3.0 Mg-1.6
___ 06:35AM BLOOD tacroFK-6.6
 
Brief Hospital Course:
Pt transferred to ___ on ___ from OSH with CT scan 
consistent with SBO and coroborating physical exam and history. 
Pt taken to the operating room on ___ for exploratory 
laparotomy where a lysis of adhesions was performed for a small 
bowel obstruction. The pt tolerated the procedure well, had an 
___ hospital course and was discharged home on POD 4. 
Post-operative pain was controlled with a dilaudid PCA and 
switched to dilaudid PO and oxycontin when the patient was 
toelrating a diet. On POD1 the pt was bolused 500cc of NS for 
low urine output with good response. NGT was d/c'd POD3 and pt 
was started on a diet of clear liquids. By POD 4 pt was 
tolerating a regular diet, passing flatus, ambulating without 
assistance, and pain was well controlled on on oral regimen. Pt 
was discharged home on POD 4.
 
Medications on Admission:
Bactrim ss, epivir 100 qd, Lantus 6units, Humalog SS, Protonix 
40 QD, Prograf 1 mg BID, Oxycontin 20, Dilaudud 

 
Discharge Medications:
1. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. insulin
Lantus QHS and Humalog SS as previously directed
3. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Tacrolimus 1 mg Capsule Sig: Two (2) Capsule PO Q12H (every 
12 hours).  
5. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain: Do not drive while taking narcotic 
pain medication.
Disp:*50 Tablet(s)* Refills:*0*
6. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO DAILY (Daily).  
7. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*2*
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Improved

 
Discharge Instructions:
Call your physician or come to the emergency department if you 
experience a fever greater than 101.5 degrees, chest pain, 
shortness of breath, increasing abdominal pain, persistent 
nausea or vomiting, inability to eat or drink, purulent drainage 
from your incisions, or any other symptoms which are concerning 
to you.
.
No driving or operating machinery while taking narcotic pain 
medications.
 
Followup Instructions:
___